US05556861
7,9-Difluoro-1-methyl-8-(3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]-naphthyridine-3-carboxylic acid was prepared under the conditions of Example 30, but starting with 1.5 g of 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid and 1.2 g of 3-(methylamino)azetidine dihydrochloride. 1.54 g of 7,9-difluoro-1-methyl-8-(3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a yellow solid, which decomposes at 302° C.

reactant | 7,8,9-trifluoro-1-methyl-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.5 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1F)F | C14H7F3N2O3
reactant | 3-(methylamino)azetidine dihydrochloride | 1.2 g | Cl.Cl.CNC1CNC1
product | 7,9-difluoro-1-methyl-8-(3-methylamino-1-azetidinyl)-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine-3-carboxylic acid | 1.54 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)C)C(=C1N1CC(C1)NC)F | C18H16F2N4O3
